US08058441B2
(a). 1,2-Dihydro-6-ethyl-2,2,4-trimethylquinoline
Skraup reaction of p-ethylaniline (1.0 g) and iodine (0.34 g) in mesityl oxide (5 ml) was performed according to the method described in example 1.

reactant | p-ethylaniline | 1.0 g | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | iodine | 0.34 g | II | I2
solvent | mesityl oxide | 5 ml | O=C(C)C=C(C)C | C6H10O
product | 1,2-Dihydro-6-ethyl-2,2,4-trimethylquinoline | C(C)C=1C=C2C(=CC(NC2=CC1)(C)C)C | C14H19N
